US05559131
N-[4-(4-Acetamidopiperidino)-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide.
To a solution of N-[4-(4-aminopiperidino)-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide (1.5 g) in dichloromethane (35 mL) was added triethylamine (0.60 mL) and acetic anhydride (0.41 mL), and the resulting solution was allowed to stir for 30 minutes. The mixture was diluted with dichloromethane and was washed (0.3N sodium hydroxide, water), dried, and evaporated. The material was dissolved in toluene and the resulting solution was evaporated to give the title compound (1.63 g) as a white solid; MS: m/z=476(M+1). Analysis for C25H31Cl2N3O2.0.2 C6H5CH3 : Calculated: C, 64.07; H, 6.63; N, 8.49; Found: C, 64.04; H, 6.59; N, 8.32.

reactant | N-[4-(4-aminopiperidino)-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide | 1.5 g | NC1CCN(CC1)CCC(CN(C(C1=CC=CC=C1)=O)C)C1=CC(=C(C=C1)Cl)Cl | C23H29Cl2N3O
reactant | triethylamine | 0.60 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.41 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | N-[4-(4-Acetamidopiperidino)-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide | 1.63 g | C(C)(=O)NC1CCN(CC1)CCC(CN(C(C1=CC=CC=C1)=O)C)C1=CC(=C(C=C1)Cl)Cl | C25H31Cl2N3O2
